US08632792B2
Preparation of 1-menthyl isostearate
284.5 g of isostearic acid (molecular weight: 284.49, 1.00 mol) and thionyl chloride (molecular weight: 118.97, 1.05 mol) were placed in a 1-L reaction flask equipped with a thermometer. The mixture was stirred at room temperature for 20 minutes and then, heated at an oil bath temperature of 40° C. and stirred for 1 hour. The reaction solution obtained was left under reduced pressure for removal of the dissolved gas and excess thionyl chloride. 300 ml of toluene and 156.3 g of 1-menthol (molecular weight: 156.27, 1.00 mol) were added thereto; and 121.4 g of triethylamine (molecular weight: 101.19, 1.20 mol) was added dropwise over 20 minutes. After dropwise addition, the mixture was stirred at an oil bath temperature of 60° C. for 3 hours. The reaction solution obtained was quenched in water and extracted with toluene. The toluene phase was washed with aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and condensed in rotary evaporator for removal of the solvent to give yellow oil. Distillation thereof under reduced pressure gave a desired product, isostearic acid-1-menthyl as colorless oil. Yield: 351.4 g, (molecular weight: 422.7, 831.4 mmol), purity: 99.8%, yield: 83.1%.

reactant | isostearic acid | 1.00 mol, 284.5 g | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
reactant | thionyl chloride | 1.05 mol | S(=O)(Cl)Cl | Cl2OS
reactant | 1-menthol | 1.00 mol, 156.3 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | triethylamine | 1.20 mol, 121.4 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-menthyl isostearate | yield: 83.1% | C(CCCCCCCCCCCCCCC(C)C)(=O)OC1(CCC(CC1)C(C)C)C | C28H54O2
